US06716424B1
Using a substrate solution containing 0.01 mg/ml of daidzein (manufactured by Funakoshi, purity ≧99%) (5 mg of daidzein suspended in 2 ml of special grade methanol and diluted to 50 ml with BHI (brain heart infusion) medium) in lieu of the above water-soluble soya isoflavone material, equol was produced in otherwise the same manner as above. As a result, the amount of equol in the fermentation broth after 96 hours of culture was 17.9±1.4 μg/ml (mean of 5 determinations ±S.D.).

reactant | daidzein | 2 ml, 5 mg | C1=CC(=CC=C1C2=COC=3C=C(C=CC3C2=O)O)O | C15H10O4
solvent | water | O | H2O
product | equol | C1=CC(=CC=C1[C@@H]2CC=3C=CC(=CC3OC2)O)O | C15H14O3
